US05998433
To a solution of 0.397 g (1.716 mmol) of 2-[benzyl-(3-furylmethyl)amino]ethanol, 0.36 ml (2.6 mmol) of triethylamine and 10 mg of 4-dimethylaminopyridine in 30 ml of dichloromethane, 0.39 g (2.1 mmol) of p-toluenesulfonyl chloride was added at room temperature, followed by stirring at room temperature for 6 hours. The reaction mixture was poured into water and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1 to 9/1) to yield N-benzyl-N-(3-furylmethy)-2-chloroethylamine.

reactant | 2-[benzyl-(3-furylmethyl)amino]ethanol | 1.716 mmol, 0.397 g | C(C1=CC=CC=C1)N(CCO)CC1=COC=C1 | C14H17NO2
reactant | triethylamine | 2.6 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 2.1 mmol, 0.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-benzyl-N-(3-furylmethy)-2-chloroethylamine | C(C1=CC=CC=C1)N(CC1=COC=C1)CCCl | C14H16ClNO
